US08859573B2
2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(1-ethyl-2-oxo-1,2-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile
The title compound was prepared by a procedure similar to that described for E1 starting from 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile and bromoethane. LC-MS (ESI): m/z 450 [M+H]+; 4.11 min (ret time).

reactant | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC=1NC(N=CC1)=O)C(F)(F)F | C19H11ClF3N3O3
reactant | bromoethane | BrCC | C2H5Br
product | 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(1-ethyl-2-oxo-1,2-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC1=NC(N(C=C1)CC)=O)C(F)(F)F | C21H15ClF3N3O3
